US08053581B2
Step 2: Preparation of 1-(4-methoxy-phenyl)-hexan-1-one
A procedure similar to step 2 of Example 52 was used. n-Caproyl chloride prepared in the step 1 and methylphenyl ether were used as starting materials, allowed to react in dichloromethane in the presence of AlCl3 catalyst, stirred at −10° C. to −15° C. for 30 minutes and then at room temperature for 3 hours, a crude product was obtained, purified under a reduced pressure by silica gel column chromatography eluted with petroleum ether and ethyl acetate at a ratio of 20:1 to obtain a product as a waxy solid in a yield of 66.2%, mp: 39-40 └. 1H-NMR (CDCl3, 400 MHz) δ: 0.91 (3H, t, J=7.20 Hz, CH3), 1.30˜1.42 (4H, m, CH2CH2), 1.73 (2H, t, J=7.20 Hz, COCH2CH2), 2.91 (2H, t, J=7.20 Hz, COCH2CH2), 3.87 (3H, s, OCH3), 6.93 (2H, d, J=8.80 Hz, ArH), 7.96 (2H, d, J=8.80 Hz, ArH); ESI-MS m/e (%): 206.1 (M, 5), 163.0 (6), 150.0 (58), 135.0 (100).

reactant | n-Caproyl chloride | CCCCCC(=O)Cl | C6H11ClO
reactant | methylphenyl ether | COC1=CC=CC=C1 | C7H8O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
product | 1-(4-methoxy-phenyl)-hexan-1-one | yield of 66.2% | COC1=CC=C(C=C1)C(CCCCC)=O | C13H18O2
